US09212192B2
N,N-bis(tert-butoxycarbonyl)-4-bromo-2-chloroaniline
A mixture of 4-bromo-2-chloroaniline (10 g, 48.4 mmol), di-tert-butyl dicarbonate (12.68 g, 58.12 mmol) and potassium carbonate (20.07 g, 145 mmol) in dimethylacetamide (300 mL) was stirred at ambient temperature for 24 hours. The mixture was poured into water and extracted with ethyl acetate (3×100 mL). The combined organic layer was dried over sodium sulfate, filtered, and concentrated and the residue was purified by flash chromatography on silica gel (200-300 mesh) eluting with 10/1 petroleum ether/ethyl acetate to give the title compound. MS: 428 (M+Na+).

reactant | 4-bromo-2-chloroaniline | 48.4 mmol, 10 g | BrC1=CC(=C(N)C=C1)Cl | C6H5BrClN
reactant | di-tert-butyl dicarbonate | 58.12 mmol, 12.68 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 145 mmol, 20.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylacetamide | 300 mL | CC(=O)N(C)C | C4H9NO
product | N,N-bis(tert-butoxycarbonyl)-4-bromo-2-chloroaniline | C(C)(C)(C)OC(=O)N(C1=C(C=C(C=C1)Br)Cl)C(=O)OC(C)(C)C | C16H21BrClNO4
